US04596809
3,5-DIHYDRO-2-(HYDROXYMETHYL)-5-PHENYL-FURO(3,2-c)-1,8-NAPHTHYRIDIN-4(2H)-ONE
A solution of 15.0 g. of 2-(bromomethyl)-3,9-dihydro-9-phenyl-furo(2,3-b)-1,8-naphthyridin-4(2H)-one hydrobromide in 200 ml of methanol, 160 ml of 1.0N sodium hydroxide solution and 150 ml. of water is stirred and refluxed on a steam bath for 21 hours. The reaction is concentrated to a volume of 200 ml in vacuo and the solid filtered and washed with water. Recrystallization of the crude solid from methanol yields the title compound, m.p. 267°-268°.

reactant | 2-(bromomethyl)-3,9-dihydro-9-phenyl-furo(2,3-b)-1,8-naphthyridin-4(2H)-one hydrobromide | Br.BrCC1CC2=C(N(C3=NC=CC=C3C2=O)C2=CC=CC=C2)O1
reactant | water | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | sodium hydroxide | 1.0N, 160 ml | [OH-].[Na+]
product | 3,5-DIHYDRO-2-(HYDROXYMETHYL)-5-PHENYL-FURO(3,2-c)-1,8-NAPHTHYRIDIN-4(2H)-ONE | OCC1CC=2C(N(C=3N=CC=CC3C2O1)C1=CC=CC=C1)=O | C17H14N2O3
